US06686353B1
Preparation of 1-Benzoyl-4-(3,3-diphenylpropyl)homopiperazine (Compound No. 199)
The resulting 1-(3,3-diphenylpropyl )homopiperazine was dissolved in 3 mL of dichloromethane, followed by adding 107 mg of triethylamine and 140 mg of benzoyl chloride. After the mixture was stirred at room temperature for 6 hours, it was mixed with 20 mL of aqueous 2N sodium hydroxide and extracted with 20 mL×2 of ethyl acetate. The organic layers were combined, washed with 20 mL of saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, filtered, concentrated, and purified by column chromatography (silica gel, hexane/ethyl acetate 4:6) to obtain 249 mg of the titled compound. This was treated with a hydrogen chloride solution in ether and the solvent was removed under reduced pressure and the residue was dried to give the hydrochloride salt of the titled compound.

reactant | 1-(3,3-diphenylpropyl )homopiperazine | C1(=CC=CC=C1)C(CCN1CCNCCC1)C1=CC=CC=C1 | C20H26N2
reactant | triethylamine | 107 mg | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 140 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-Benzoyl-4-(3,3-diphenylpropyl)homopiperazine | 249 mg | C(C1=CC=CC=C1)(=O)N1CCN(CCC1)CCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H30N2O
